US05817693
d) (1RS,2RS,3RS)-2-Methanesulfonyloxymethyl-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane
To a solution of (1RS,2RS,3RS)-2-hydroxymethyl-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane (1.388 g, 2.82 mmol) in methylene chloride (10 ml) with TEA (1.2 ml) stirred under argon at 0° C. was added methanesulfonyl chloride (0.41 g, 3.5 mmol). The cooling bath was removed and stirring continued for 1 h. The mixture was partitioned between EtOAc and 3N HCl. The organic extract was washed with H2O, saturated NaHCO3 solution, H2O, then brine, dried (Na2SO4) and solvent removed in vacuo to afford the title compound as an oil (1.52 g, 95%).

reactant | (1RS,2RS,3RS)-2-hydroxymethyl-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane | 2.82 mmol, 1.388 g | OCC1C(C2=CC=C(C=C2C1C1=C(C=C(C=C1)OC)OCOC)OCCC)C1=CC2=C(C=C1)OCO2 | C29H32O7
reactant | methanesulfonyl chloride | 3.5 mmol, 0.41 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (1RS,2RS,3RS)-2-Methanesulfonyloxymethyl-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane | 1.52 g, 95% | CS(=O)(=O)OCC1C(C2=CC=C(C=C2C1C1=C(C=C(C=C1)OC)OCOC)OCCC)C1=CC2=C(C=C1)OCO2 | C30H34O9S
